US05932595
O-(tert-Butyl)hydroxylamine hydrochloride (9.57 g), 4-methylmorpholine (15.64 ml), hydroxybenzotriazole (6.87 g), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (19.5 g) was added to a solution of 2-[4-(4-phenoxyphenylthio)-tetrahydropyran-4-yl]acetic acid (17.5 g) in methylene chloride (200 ml). After stirring for 3 hours at room temperature, 0.5 M hydrochloric acid (200 ml) was added to the mixture, and the mixture extracted with methylene chloride. The solvent was removed from the combined extracts under reduced pressure. Silica gel chromatography of the residue and elution with 35%-80% ethyl acetate/hexane gave N-tert-butoxy-2-[4-(4-phenoxyphenylthio)-tetrahydropyran-4-yl]-acetamide (15.3 g) as an oil, which can be used in the next reaction without further purification.

reactant | O-(tert-Butyl)hydroxylamine hydrochloride | 9.57 g | Cl.C(C)(C)(C)ON
reactant | 4-methylmorpholine | 15.64 ml | CN1CCOCC1 | C5H11NO
reactant | hydroxybenzotriazole | 6.87 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 19.5 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-[4-(4-phenoxyphenylthio)-tetrahydropyran-4-yl]acetic acid | 17.5 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)SC1(CCOCC1)CC(=O)O | C19H20O4S
reactant | hydrochloric acid | 0.5 M, 200 ml | Cl | ClH
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-tert-butoxy-2-[4-(4-phenoxyphenylthio)-tetrahydropyran-4-yl]-acetamide | 15.3 g | C(C)(C)(C)ONC(CC1(CCOCC1)SC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C23H29NO4S
